US05683623
Diethyl(2-n-pentylpropanedicarboxylate) (Formula 2)
Alcoholic sodium ethoxide, prepared from sodium (7.8 g, 0.34 mol) in super-dry ethanol (200 cm3) was cooled to ca. 50° C. and diethyl malonate (55 g, 0.34 mol) added slowly with vigorous stirring. 1-Bromopentane (49.5 g, 0.33 mol) was added gradually and the mixture refluxed until neutral to moist litmus (ca. 2 h). The solvent was removed in vacuo and water (200 cm3) added. The aqueous layer was extracted with diethyl ether (2×100 cm3) and the combined ethereal layers were dried (Na2SO4). The solvent was removed in vacuo and the pure product isolated by distillation under reduced pressure.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.34 mol, 7.8 g | [Na] | Na
reactant | diethyl malonate | 0.34 mol, 55 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-Bromopentane | 0.33 mol, 49.5 g | BrCCCCC | C5H11Br
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
product | Diethyl(2-n-pentylpropanedicarboxylate) | C(C)OC(=O)C(C(C)CCCCC)C(=O)OCC | C14H26O4
